US05597922
An adaptation of the method of Harsanyi et al., Liebigs Ann. Chem. 190 (1973), was used. A mixture of 6,7-dichloro-3-aminoquinoxalin-2(1H)-one (50 mg, 0.22 mmol) and hydroxylamine hydrochloride (33 mg, 0.47 mmol; Aldrich Co.) in 2 mL of ethanol was heated to reflux. The resulting brown suspension was stirred under reflux for 12 h. The resulting brown suspension was allowed to cool to 25° C. A brown precipitate appeared. The mixture was vacuum filtered and the brown solid was washed with EtOH (5×2 mL) and dried in vacuum at 60° C. overnight to yield 42 mg (79%) of 6,7-dichloro-3-(hydroxyimino)-1,4-dihydroquinoxalin-2-one: mp dec.>270° C. 1H NMR (300 MHz, DMSO-d6) δ 11.306 (br s, 1H, NH), 11.049 (br s, 1H, NH), 10.148 (br s, 1H, NOH), 7.403 (s, 1H, H-5), 7.018 (s, 1H, H-8). Mass: calcd. for C8H5Cl2N3O2 (M+) M/Z 244.9759, found 244.9769.

reactant | 6,7-dichloro-3-aminoquinoxalin-2(1H)-one | 0.22 mmol, 50 mg | ClC=1C=C2N=C(C(NC2=CC1Cl)=O)N | C8H5Cl2N3O
reactant | hydroxylamine hydrochloride | 0.47 mmol, 33 mg | Cl.NO
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 6,7-dichloro-3-(hydroxyimino)-1,4-dihydroquinoxalin-2-one | 42 mg, 79% | ClC=1C=C2NC(C(NC2=CC1Cl)=O)=NO | C8H5Cl2N3O2
